US06228868B1
1-methyl-1H-pyridin-2-one-4-carboxylic acid
A solution of N-methyl-4-methoxycarbonylpyridinium iodide (2.00 g, 7.16 mmol) in water (10 mL) at room temperature was treated sequentially with 14M sodium hydroxide (1.0 mL) and 1.8M K3Fe(CN)6 (1.5 mL), stirred for 4 hours, treated again with 1.8M K3Fe(CN)6 once per hour for 4 hours, heated at 55° C. for one hour, cooled to room temperature, and treated with 6M HCl to pH 3. The precipitate was collected, washed with ether and dried under vacuum to provide 1.00 g of the desired product.

reactant | N-methyl-4-methoxycarbonylpyridinium iodide | 7.16 mmol, 2.00 g | [I-].C[N+]1=CC=C(C=C1)C(=O)OC
reactant | sodium hydroxide | 14M, 1.0 mL | [OH-].[Na+]
reactant | HCl | 6M | Cl | ClH
solvent | water | 10 mL | O | H2O
product | 1-methyl-1H-pyridin-2-one-4-carboxylic acid | 1.00 g | CN1C(C=C(C=C1)C(=O)O)=O | C7H7NO3
